US04122265
A solution of 24.0 g. of 5-chloro-3-phenylisoindole-1-carboxylic acid [3-(2-methyl-1,3-dioxolan-2-yl)-propyl]amide in 160 ml. of dimethylformamide is treated under an atmosphere of argon at 0°-5° C. with a solution of 2.1 g. of sodium in 40 ml. of methanol. The mixture is then stirred at room temperature for 30 minutes and subsequently added dropwise to a solution of 18.6 g. of p-toluenesulfonic acid methyl ester in 20 ml. of dimethylformamide. The mixture is subsequently stirred at room temperature for 30 minutes and then at 80° C. for 1 hour. After cooling, the mixture is poured on to 400 ml. of ice-water and, after the addition of 20 g. of sodium chloride, the separated product is removed by filtration under suction, washed with water and then dissolved in methylene chloride. The organic phase is washed with water, dried over sodium sulfate and evaporated to dryness. The residue obtained is chromatographed on 500 g. of silica gel using methylene chloride/ethyl acetate (4:1) for the elution. The uniform fractions are combined and evaporated, and there is obtained 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid [3-(2-methyl-1,3-dioxolan-2-yl)-propyl]amide having a melting point of 137°-139° C. Recrystallization from ethanol yields colorless crystals of the same melting point.

reactant | 5-chloro-3-phenylisoindole-1-carboxylic acid [3-(2-methyl-1,3-dioxolan-2-yl)-propyl]amide | CC1(OCCO1)CCCNC(=O)C=1NC(=C2C=C(C=CC12)Cl)C1=CC=CC=C1 | C22H23ClN2O3
reactant | sodium | [Na] | Na
reactant | p-toluenesulfonic acid methyl ester | COS(=O)(=O)C1=CC=C(C=C1)C | C8H10O3S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid [3-(2-methyl-1,3-dioxolan-2-yl)-propyl]amide | CC1(OCCO1)CCCNC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)C | C23H25ClN2O3
